### PR TITLE
Beaver Math Olympiad problems

### PR DESCRIPTION
**Pull request by tcosmo**
This PR adds the current [Beaver Math Olympiad problems](https://wiki.bbchallenge.org/wiki/Beaver_Math_Olympiad#5._1RB0LD_1LC0RA_1RA1LB_1LA1LE_1RF0LC_---0RE_(bbch)) to the project (see #230).

A few notes:

- I have added verbose comments documenting each problem and crediting the bbchallenge contributors who found the associated TMs and mathematical reformulations
- I have used a lean parenthesisation style that is slightly more verbose than was originally done to help non-native lean speakers
- [BMO#4](https://wiki.bbchallenge.org/wiki/Beaver_Math_Olympiad#4._1RB3RB---1LB0LA_2LA4RA3LA4RB1LB_(bbch)) original formulation is based on a partial definition of `a` I have taken the liberty of making it total through the `else` branch
- In BMO#5 statement, I've used [global definition of function "f"](https://github.com/tcosmo/formal-conjectures/blob/579d1ba125ce8b61a4f20b5085af36ccc07f33b5/FormalConjectures/Other/BeaverMathOlympiad.lean#L128), I don't know if it is compatible with your preferred good practice, I will inline it if you prefer
- I added "The bbchallenge Collaboration (bbchallenge.org)" in the AUTHORS, let me know if this is against your authoring guidelines and what we should do instead

### CODE REVIEW

**Comment by tcosmo** [comment]
Also, let me know if you require a specific maximum number of characters per line ~~(if you do, maybe it should be added in the README)~~ and I will update the long doc comments.

**Comment by Reklle** [comment]
As far as I know, the limit on the length of a string is 100. This is the standard if you use Lean in VS Code.

**Comment by tcosmo** [comment]
Ahh yep, I just saw it [here](https://github.com/google-deepmind/formal-conjectures/blob/8894ec5fdeff6ec2e56506f04670e3d5a732835d/.vscode/settings.json#L4)

But vscode did not enforce the rule on my code, probably due to some setting I have at the user level... I will add a commit correcting this. (Or it seems the ruler is just indicative)

Thank you!

**Comment by tcosmo** [comment]
Done in b05e3242b368e1491aa50ef92b626b10ddb053d2: I broke lines that were > 100 characters apart from when this happened in the middle of a long link or as a consequence of a long link earlier in the sentence, e.g. `[BMO#2](https://wiki.bbchallenge.org/wiki/Beaver_Math_Olympiad#2._Hydra_and_Antihydra) formulation variant`.

File: FormalConjectures/Other/BeaverMathOlympiad.lean [hunk 1]
```diff
@@ -0,0 +1,158 @@
...
+[BMO#1](https://wiki.bbchallenge.org/wiki/Beaver_Math_Olympiad#1._1RB1RE_1LC0RA_0RD1LB_---1RC_1LF1RE_0LB0LE_(bbch)) is equivalent to asking whether the 6-state Turing machine
+[`1RB1RE_1LC0RA_0RD1LB_---1RC_1LF1RE_0LB0LE`](https://wiki.bbchallenge.org/wiki/1RB1RE_1LC0RA_0RD1LB_---1RC_1LF1RE_0LB0LE) halts or not.
+
+There is presently no consensus on whether the machine halts or not, hence the problem is formulated
+using `↔ answer(sorry)`.
+
+The machine was discovered by [bbchallenge.org](bbchallenge.org) contributor Jason Yuen on
+June 25th 2024.
+-/
+@[category research open, AMS 5, AMS 11, AMS 68]
```
Comment (Paul-Lez) [inline FormalConjectures/Other/BeaverMathOlympiad.lean]: We usually write:
```suggestion
@[category research open, AMS 5 11 68]
```
(and similarly below)

File: FormalConjectures/Other/BeaverMathOlympiad.lean [hunk 2]
```diff
@@ -0,0 +1,158 @@
...
+theorem beaver_math_olympiad_problem_2_antihydra.variants.set
+    (a : ℕ → ℕ)
+    (a_ini : a 0 = 8) (a_rec : ∀ n, a (n+1) = (3*(a n)/2 : ℕ)) :
+    ∀ n, ((Finset.Ico 0 n).filter fun x ↦ Odd (a x)).card ≤
+        2*((Finset.Ico 0 n).filter fun x ↦ Even (a x)).card := by
+  sorry
+
+/--
+[BMO#3][https://wiki.bbchallenge.org/wiki/Beaver_Math_Olympiad#3._1RB0RB3LA4LA2RA_2LB3RA---3RA4RB_(bbch)_and_1RB1RB3LA4LA2RA_2LB3RA---3RA4RB_(bbch)]
```
Comment (Paul-Lez) [inline FormalConjectures/Other/BeaverMathOlympiad.lean:116]: I think it would be helpful to add the informal statement of this problem in the docstring too!

File: FormalConjectures/Other/BeaverMathOlympiad.lean [hunk 3]
```diff
@@ -0,0 +1,158 @@
...
+
+The machine was informally proven not to halt [bbchallenge.org](bbchallenge.org)
+contributor Daniel Yuan on July 19th 2024; see [sketched proof](https://wiki.bbchallenge.org/wiki/1RB3RB---1LB0LA_2LA4RA3LA4RB1LB) and [Discord discussion](https://discord.com/channels/960643023006490684/960643023530762343/1263666591900631210).
+-/
+@[category research solved, AMS 5, AMS 11, AMS 68]
+theorem beaver_math_olympiad_problem_4
+    (a : ℕ → ℕ)
+    (a_ini : a 0 = 2)
+    (a_rec : ∀ n, a (n+1) = if (a n)%3 = 0 then (a n)/3 + 2^n + 1
+                                           else ((a n) - 2)/3 + 2^n - 1) :
```
Comment (Paul-Lez) [inline FormalConjectures/Other/BeaverMathOlympiad.lean]:
```suggestion
    (a_rec : ∀ n, a (n+1) 
      = if (a n) % 3 = 0 then (a n) / 3 + 2^n + 1 else ((a n) - 2) / 3 + 2^n - 1) :
```

File: FormalConjectures/Other/BeaverMathOlympiad.lean [hunk 4]
```diff
@@ -0,0 +1,158 @@
...
+in [Rocq](https://github.com/ccz181078/busycoq/blob/BB6/verify/1RB0LD_1LC0RA_1RA1LB_1LA1LE_1RF0LC_---0RE.v).
+-/
+def f (x: ℕ) :=
+  10*2^x - 1
+
+@[category research open, AMS 5, AMS 11, AMS 68]
+theorem beaver_math_olympiad_problem_5 (a : ℕ → ℕ) (b : ℕ → ℕ)
+    (a_ini : a 0 = 0) (a_rec : ∀ n, a (n+1) = if b n ≥ f (a n) then a n + 1 else a n)
+    (b_ini : b 0 = 5) (b_rec : ∀ n, b (n+1) = if b n ≥ f (a n) then b n - f (a n)
+                                                               else 3*b n + a n + 5) :
```
Comment (Paul-Lez) [inline FormalConjectures/Other/BeaverMathOlympiad.lean]:
```suggestion
    (b_ini : b 0 = 5) 
    (b_rec : ∀ n, b (n+1) = if b n ≥ f (a n) then b n - f (a n) else 3 * b n + a n + 5) :
```

File: FormalConjectures/Other/BeaverMathOlympiad.lean [hunk 5]
```diff
@@ -0,0 +1,158 @@
...
+The machine was discovered by [bbchallenge.org](bbchallenge.org) contributor Jason Yuen on
+June 25th 2024.
+-/
+@[category research open, AMS 5, AMS 11, AMS 68]
+theorem busy_beaver_math_olympiad_problem_1 (a : ℕ → ℕ) (b : ℕ → ℕ)
+    (a_ini : a 0 = 1) (a_rec : ∀ n, a (n+1) = if (a n) ≥ (b n) then (a n) - (b n) else 2*(a n) + 1)
+    (b_ini : b 0 = 2) (b_rec : ∀ n, b (n+1) = if (a n) ≥ (b n) then 4*(b n) + 2 else (b n) - (a n)):
+    (∃ i, a i = b i) ↔ answer(sorry) := by
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/Other/BeaverMathOlympiad.lean:73]: If you feel like it, it could be nice to add a Turing machine version of each of these statements and state the equivalence as a theorem with `category test`. For example, we could have something along the lines of:
```suggestion
inductive Γ
  | A
  | B
  | C
  | D
  | E
  | F

open Turing BusyBeaver

def BusyBeaver1 : Machine Γ (Fin 2) :=
  -- define the function using `match`...

theorem busy_beaver_math_olympiad_problem_1_halting_version : BusyBeaver1.IsHalting := by 
  sorry 
    
theorem busy_beaver_math_olympiad_problem_1_equivalence : 
    type_of% busy_beaver_math_olympiad_problem_1 ↔
       type_of% busy_beaver_math_olympiad_problem_1_halting_version := by
  sorry
```

That being said, this should be a lot faster once I've added the Turing Machine elaborator (since you wouldn't need to mess around with defining the function explicitly and so on), so this can be done in another PR:)

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the PR! A few initial comments - I'll take a another look later this week:)

File: FormalConjectures/Other/BeaverMathOlympiad.lean (hunk 1 above)
Comment (tcosmo) [reply FormalConjectures/Other/BeaverMathOlympiad.lean]: OK, will update, note that the original file was using style `AMS 5, AMS 11`

File: FormalConjectures/Other/BeaverMathOlympiad.lean (hunk 5 above)
Comment (tcosmo) [reply FormalConjectures/Other/BeaverMathOlympiad.lean:73]: Yes, I think it is a great idea to add those tests but I think it would make more sense to wait for your elaborator, so I will open a PR in the future for this :)

File: FormalConjectures/Other/BeaverMathOlympiad.lean (hunk 2 above)
Comment (tcosmo) [reply FormalConjectures/Other/BeaverMathOlympiad.lean:116]: Capture d’écran 2025-06-30 à 13 22 09

This is the informal statement of the problem, are you sure it would be useful to the docstring?

File: FormalConjectures/Other/BeaverMathOlympiad.lean (hunk 1 above)
Comment (tcosmo) [reply FormalConjectures/Other/BeaverMathOlympiad.lean]: Done in [f92c68d](https://github.com/google-deepmind/formal-conjectures/pull/251/commits/f92c68dd0735ed5f957c70db945a3d69e0376722)

File: FormalConjectures/Other/BeaverMathOlympiad.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/Other/BeaverMathOlympiad.lean:116]: I think it would (minus the discord link perhaps); the main use case is that it gives people an easy way to make sure that the contents of the statement in the docstring matches the formalisation, without having to leave a code editor and so on.

Comment (tcosmo) [reply FormalConjectures/Other/BeaverMathOlympiad.lean:116]: Do we want the other statements as well or just this one because of its cumbersomeness?

Comment (Paul-Lez) [reply FormalConjectures/Other/BeaverMathOlympiad.lean:116]: I think all statements would be great!

Comment (tcosmo) [reply FormalConjectures/Other/BeaverMathOlympiad.lean:116]: All added in 1e4681084b796421b826ca267f96c28a3917b685 :)

**Comment by Paul-Lez** [comment]
I think you have merge conflicts that need to be fixed!

**Comment by tcosmo** [comment]
> I think you have merge conflicts that need to be fixed!

I don't understand what's going on, I don't see any conflicts when I pull locally and github is unable to tell either:

Capture d’écran 2025-07-03 à 20 03 19

**Comment by Paul-Lez** [comment]
Ah it seems the issue was that someone edited the file that you deleted - I've just pushed a fix!
